* gnetlist -L ../.. -g spice-noqsi -o Class_C_amplifier.net Class_C_amplifier.sch
* SPICE file generated by spice-noqsi version 20130710
* Send requests or bug reports to jpd@noqsi.com
.INCLUDE ./Bipolar_Junction_Transistor.lib
Rb GND Vbase 1000      
Cin Vin Vbase 1nF      
Vd Vdd GND 3.3V
Q1 Vout Vbase GND npndie   
Vin Vin GND ac 1 sin(0 1 15.9154943092MEG)
C1 Vdd 1 100nF      
L1 1 Vdd 1nH  
Rtank 1 Vdd 10      
V_IP1 1 Vout DC 0V  
.control
tran 1n 3u
plot Vin Vout v(Vin, Vbase)
plot i(V_IP1) v(Vin, Vbase)
plot i(V_IP1) Vout
pss 16e6 2e-6 Vout 1024 10 5 5e-3 uic
.endc

